Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Amoxicillin
 
Attending: ___.
 
Chief Complaint:
fall/AMS/Epidural hematoma
 
Major Surgical or Invasive Procedure:
___: Right craniotomy for evacuation of epidural hematoma
 
History of Present Illness:
___ year old intoxicated male on 325 mg ASA found down and
transferred to ___. ___ was performed and
demonstrated right side epidural hematoma. The patient was then
transferred to ___ for Neurosurgical evaluation. On arrival 
the
patient was somnolent and per EMS report his neurologic exam
declined en route. While at ___ the patient was intubated for
airway protection and he received 100 GM of Mannitol and 1 gram
of Keppra for seizure prophylaxis. Repeat NCHCT revealed 
interval
increase in the size of the EDH, and the patient was taken
emergently to the OR for EDH evacuation. 
 
Past Medical History:
# depression/PTSD
# anxiety, agoraphobia
# polysubstance abuse (benzos, ETOH)
 - seizures related to etoh/benzo withdrawal
# HCV
# TB as a child
# hernated disks/chronic LBP
# hypothyroidism
# s/p Bil THR

 
Social History:
___
Family History:
Family History: Mother with emphysema. 
 
Physical Exam:
ADMISSION EXAM
==============
Gen: Lethargic, open eyes to loud voice 
HEENT: Pupils: Right pupil 6mm NR, Left pupil 3mm NR, abrasion 
to
posterior aspect of scalp.
Neuro:
Mental status: Lethargic, does not speak during exam
Orientation: No verbal output at the time of exam.
Language: No verbal output at the time of exam.
Cranial Nerves:
I: Not tested
II: Right pupil 6mm NR, Left pupil 3mm NR
VIII: Hearing intact to loud voice.
Motor: Moves RUE AG to command, wiggles toes to RLE, no movement
to LUE/LLE to deep noxious. 

DISCHARGE EXAM
==============
Physical Exam:  
Vitals: 98.0
PO 121 / 84 76 16 100 TA  
General- Alert, oriented, NAD, 
HEENT- Sclera anicteric, MMM, oropharynx clear, trach in place  
Neck- supple, JVP not elevated, no LAD  
Lungs- R wheezes, rales, rhonchi mild-moderate 
CV- RRR, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no HSM, PEG in place 
Ext- WWP,PPP, no ___ edema  
Neuro- Anisocoria L pupil > R pupil, left gaze palsy, left 
facial droop, CNII-XII intact, LUE and LLE ___ strength, RUE 
and RLE ___ strength. 

 
Pertinent Results:
ADMISSION LABS
==============
___ 03:55AM BLOOD WBC-3.4* RBC-2.48*# Hgb-9.3* Hct-27.3*# 
MCV-110*# MCH-37.5*# MCHC-34.1 RDW-17.7* RDWSD-71.5* Plt Ct-98*#
___ 03:55AM BLOOD ___ PTT-31.8 ___
___ 08:09AM BLOOD Glucose-188* UreaN-5* Creat-0.4* Na-135 
K-3.6 Cl-107 HCO3-19* AnGap-13
___ 08:09AM BLOOD ALT-26 AST-92* CK(CPK)-1192* AlkPhos-45 
TotBili-2.3*
___ 08:09AM BLOOD Albumin-3.0* Calcium-8.4 Phos-3.7 Mg-1.7
___ 05:00AM BLOOD Type-ART pO2-129* pCO2-59* pH-7.14* 
calTCO2-21 Base XS--9 Intubat-INTUBATED
___ 05:00AM BLOOD Glucose-145* Lactate-1.1 Na-127* K-2.9* 
Cl-103
___ 05:00AM BLOOD Hgb-5.9* calcHCT-18
___ 05:00AM BLOOD freeCa-0.98*

MICRO
=====

Sputum ___: Klebsiella
BAL ___: Pan-sensitive klebsiella, fungal culture negative, 
AFB smear negative
Sputum ___:  OP Flora, GNR Rare growth, preliminary yeast 

___ Blood culture: No growth  
___ Blood culture: pending

Urine Culture ___: No growth  

C.diff ___: negative

___: Aspergillus Galactomannan Antigen negative  
___: B Glucan 224  H'
___: B Glucan 90

IMAGES
======

Cervical CT ___
1. No evidence of acute cervical spine fracture, mild 
retrolisthesis noted at C3 upon C4 and C4 upon C5 levels. 
2. Small posterior disc bulge at C3-C4 without significant 
spinal canal 
narrowing. 
3. Partially visualized large right epidural hematoma along the 
posterior 
cranial fossa better assessed on same day head CT. 
4. Fluid-filled esophagus places the patient at risk of 
aspiration. 

Head CT ___
1. Increase in size of large right parietotemporal epidural 
hematoma with 
findings worrisome for active hemorrhage and increased leftward 
shift of 
midline structures, right uncal herniation and trans central 
herniation. 
2. Likely small right frontotemporal subdural hematoma. 
3. 1.1 and 0.5 cm areas of intraparenchymal hemorrhage within 
right temporal lobe adjacent to large epidural collection. 
4. Small right posterior occipital subgaleal hematoma. 
5. Nondisplaced right temporal bone fracture. 

CXR ___
1. Right lower lobe opacity is worrisome for pulmonary 
contusion, pneumonia or aspiration in the appropriate clinical 
setting. 
2. Endotracheal tube in appropriate position. 

Head CT ___
1. Status post evacuation of large right sided epidural hematoma 
with expected postsurgical changes including pneumocephalus. 
2. Persistent mixed density right parietotemporal subdural 
collection 
measuring 1.3 cm in maximal width.  No definite epidural 
component. 
3. Decreased leftward shift of midline structures, uncal 
herniation, and 
transtentorial herniation. 
4. New hypodensities within the right parieto-occipital lobe are 
worrisome for right PCA infarct. 
5. New small subdural hematoma along falx with unchanged 0.8 and 
0.6 cm right anterior temporal lobe intraparenchymal 
hemorrhages.  . 

Head CT ___
1. Continued evolution of postoperative changes related to right 
parietal 
temporal craniotomy. 
2. Right convexity subdural hematoma and slight leftward midline 
shift are 
similar to 1 day ago. 
3. Likely right PCA territory infarction is similar to 1 day 
ago. 

CXR ___
In comparison with the study of ___, the monitoring and 
support 
devices are unchanged.  There is some increase in the asymmetric 
opacification at the left base, though no silhouetting of the 
heart border or hemidiaphragm. Although this could merely 
represent atelectatic change, in the appropriate clinical 
setting superimposed aspiration or even infectious pneumonia 
could be considered. 

Head CT ___
1. Unchanged sequelae of evolving right PCA territory infarct. 
2. Interval decrease in size in small mixed density right 
subdural hematoma, now 6 mm (previously 9 mm). 
3. Interval decrease in size of the small/trace left subdural 
collection. 
4. No evidence of new hemorrhage or new infarction. 
5. Improvement in mass effect, as above.  No herniation. 
6. Expected postsurgical sequela status post right parietal 
craniotomy, 
including resolving pneumocephalus. 
7. Unchanged sinus disease primarily involving the right 
maxillary sinus and sphenoid sinus, as above. 

Elbow XR ___
Soft tissue swelling posterior left elbow.

CXR ___
Comparison to ___.  The monitoring and support 
devices are in 
stable position.  The pre-existing retrocardiac opacity has 
substantially 
increased in extent and severity and is likely reflecting 
pneumonia.  New 
similar opacities visualized at the right lung basis and could 
represent a 
second infectious focus or an area of aspiration.  No pleural 
effusions.  No pulmonary edema.  Normal size of the heart. 

CHEST (PORTABLE AP) Study Date of ___ 5:01 AM 
IMPRESSION:  
Compared to chest radiographs ___ through ___ ET 
tube ends at the thoracic inlet and should not be withdrawn 
further.  Right subclavian line ends close to the superior 
cavoatrial junction.  Feeding tube ends in the upper stomach.  
12:31. 
  
Compared to ___ mediastinal and pulmonary vessels are 
more engorged indicating a definite component of volume overload 
or cardiac decompensation.  
Bibasilar consolidation preceded the relative cardiac 
decompensation and has subsequently improved.  I can't 
distinguish between concurrent bibasilar 
pneumonia and dependent atelectasis and edema.  No pneumothorax. 

  
Pleural effusion is presumed but not substantial.  No 
pneumothorax.  Heart 
size is normal, but increased since ___. 

CT HEAD W/O CONTRAST Study Date of ___ 12:19 ___ 
IMPRESSION: 
1. Evolving right PCA territory infarction is not significantly 
changed 
compared to the prior study.  No evidence of hemorrhagic 
transformation or new infarction. 
2. Residual right subdural hemorrhage and minimal hyperdensity 
along the falx 
posteriorly, unchanged compared to the prior study. 
3. Mild sulcal effacement and minimal midline shift persists. 
4. Bifrontal pneumocephalus has decreased compared to the prior 
study. 
5. Fluid collection the right posterior cervical region is 
likely 
postsurgical, decreased in size compared to prior study. 

CHEST (PORTABLE AP) Study Date of ___ 5:29 AM 
IMPRESSION:   
Comparison to ___.  The patient has been extubated. 
 The 
nasogastric tube and the right venous access line persists.  
Increase in 
extent of the pre-existing bilateral parenchymal opacities, with 
a 
distribution suggestive of aspiration.  Multifocal pneumonia 
would be another the differential diagnostic consideration.  No 
pleural effusions.  Borderline size of the heart.  No 
pneumothorax. 

___ CXR
Continued worsening of the bilateral predominately airspace 
opacities.  
Appearances suggest pulmonary edema but infection or hemorrhage 
could have a similar appearance.

___ CXR
Since the prior study the patient has been intubated, an 
endotracheal tube 
terminates 4.5 cm above the level carina.  A nasogastric tube 
terminates in the stomach.  Lung volumes are within normal 
limits.  No pneumothorax seen.  Predominate perihilar airspace 
opacities are consistent with pulmonary edema, asymmetric with 
increased opacity seen in the left lung. Infection or hemorrhage 
cannot be excluded.  Left lower lobe atelectasis.  There is a 
small left pleural effusion. 
 
___
Compared to chest radiographs ___ through ___ 
at 12:04. 
  
Widespread pulmonary opacification with basal predominance is 
probably 
combination of widespread pneumonia and pulmonary edema.  There 
was some 
improvement between ___ and ___, subsequently 
stable.  
Pleural effusion is likely, but not substantial.  Heart size 
normal.  No 
pneumothorax. 
  
ET tube in standard placement.  Transesophageal feeding tube 
ends in the upper stomach. 

___ CXR
Bilateral multifocal opacities with increasing opacities in the 
left lung 
base, small left pleural effusion, and left retrocardiac 
consolidation. 
Evolution of pulmonary findings with distention of the azygos 
vein raises the possibility of volume overload superimposed on 
known infection. 

___ BUE LENIs
No evidence of deep vein thrombosis in the left upper extremity. 


___ CT Head without Contrast:
1. Evolving right PCA territory infarction stable when compared 
to prior 
study.  No new evidence hemorrhage or acute large territory 
infarction. 
2. Stable bifrontal subdural hygromas and posterior subdural 
hemorrhage with dural thickening. 
3. Mildly improved sulcal effacement and midline shift. 
4. Stable of fluid collection the right posterior cervical 
region likely 
representing postsurgical changes. 

___ Upper Extremity Ultrasound Study: 
1. No evidence of deep vein thrombosis in the left upper 
extremity. 
2. There is a superficial thrombus noted in the distal cephalic 
vein.

 

___ CXR:
Comparison to ___.  Lung volumes have decreased.  
Increasing bilateral parenchymal opacities, notably on the 
right.  The findings are highly suggestive of pneumonia.  No 
pleural effusions.  Stable appearance of the cardiac silhouette. 


___ CT ABD:
1. Findings suggestive of lower lung infection.  Small left and 
trace right pleural effusions.  Given the bilaterally, 
aspiration is a consideration. 
2. A loop of redundant sigmoid colon has a somewhat abnormal, 
narrowed course, though there is no associated wall thickening 
or obstruction.  This may be related to peristalsis and a loop 
of redundant sigmoid colon, however, depending on clinical 
symptoms, consider intermittent volvulus.  No small bowel 
dilatation to suggest internal hernia. 
3. Trace perihepatic and small volume pelvic ascites. 
4. Healing right L3 and L4 transverse process fractures and 
lateral right ninth and tenth rib fractures. 

___ TTE:
Poor image quality (limited study due to patient discomfort). 
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thicknesses 
are normal. The left ventricular cavity size is normal. Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Overall left ventricular systolic 
function is probably mildly depressed (LVEF= 50 %). There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. No 
masses or vegetations are seen on the aortic valve. The mitral 
valve leaflets are mildly thickened. No clear masses or 
vegetations are seen on the mitral valve, but cannot be fully 
excluded due to suboptimal image quality. Mild (1+) mitral 
regurgitation is seen. There is borderline pulmonary artery 
systolic hypertension. There is no pericardial effusion. 
IMPRESSION: Suboptimal study to fully exclude endocarditis. If 
indicated, a TEE may better assess for valve vegetations.  

___ CT Chest:
Findings most likely represent diffuse/multifocal 
bronchipneumonia. 
Third-spacing of fluid as evidenced by pleural effusions, trace 
pericardial effusion, ascites and subcutaneous edema. Relative 
hypodensity of the blood pool suggests anemia. 

___ CT Head:
1. Evolving right PCA territory infarction stable when compared 
to prior study.  No new evidence hemorrhage or acute large 
territory infarction. 
2. Stable bifrontal subdural hygromas and posterior subdural 
hemorrhage with dural thickening. 
3. Mildly improved sulcal effacement and midline shift. 
4. Stable of fluid collection the right posterior cervical 
region likely representing postsurgical changes. 

DISCHARGE LABS
==============

___ 05:07AM BLOOD WBC-12.6* RBC-2.57* Hgb-8.2* Hct-26.0* 
MCV-101* MCH-31.9 MCHC-31.5* RDW-18.4* RDWSD-66.1* Plt ___
___ 05:07AM BLOOD Neuts-71 Bands-0 Lymphs-15* Monos-11 
Eos-1 Baso-2* ___ Myelos-0 AbsNeut-8.95* 
AbsLymp-1.89 AbsMono-1.39* AbsEos-0.13 AbsBaso-0.25*
___ 05:07AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL MacroOv-OCCASIONAL Tear 
Dr-OCCASIONAL
___ 05:07AM BLOOD Plt Smr-NORMAL Plt ___
___ 05:07AM BLOOD Glucose-105* UreaN-9 Creat-0.4* Na-133 
K-4.0 Cl-103 HCO3-21* AnGap-13
___ 06:20AM BLOOD estGFR-Using this
___ 04:32AM BLOOD ALT-32 AST-52* LD(LDH)-429* AlkPhos-136* 
Amylase-90 TotBili-0.9
___ 05:07AM BLOOD Albumin-2.6* Calcium-8.6 Phos-3.4 Mg-1.8
___ 04:32AM BLOOD calTIBC-185* Ferritn-667* TRF-142*
___ 09:12AM BLOOD Osmolal-271*
___ 02:10AM BLOOD TSH-2.___ year old male with history polysubstance abuse and Hepatitis 
C, s/p r craniotomy (___) for 4.5 cm epidural hematoma with 2.1 
cm midline shift, R PCA infarct and SDH. S/p trach/PEG on ___, 
c/b VAP PNA now being treated with vanc/cefepime/flagyl.

COURSE IN NEURO ICU
====================

On ___, the patient presented after fall and AMS and was 
found to have a large right epidural hematoma.  He had a 
worsening neuro exam with a blown right pupil and was brought 
emergently to the OR for a right craniotomy and evacuation of 
hematoma.  Post-operatively he underwent a head CT that showed 
good decompression and evacuation.  His exam improved and he was 
following command with his right side.  His exam remained stable 
through ___.  

On ___, He remained on the ventilator due to ETOH withdrawal and 
the need for phenobarb for withdrawal symptoms.  His platelets 
down-trended to 60 and he was given a platelet transfusion. 

On ___, the patients platelets were 81. He was successfully 
extubated and was being treated for pneumonia. Repeat head CT 
was stable and he was started on subcutaneous heparin. On 

On ___, the patient received 1 unit of packed red blood cells 
for hgb 6.9. His neurological checks were liberalized to Q2H. He 
was restarted on tube feeds.  

On ___: Continued thick secretions responsive to aggressive 
suctioning and mucomyst nebs. Labs stable.

On ___, Patients exam remained stable.  He continued on 
antibiotics for pneumonia, however, was requiring frequent deep 
suctioning for increased secretions.  Overnight he was 
reintubated for respiratory failure.

On ___, The patient remained intubated.  He continued to have a 
stable neuro exam and continued on phenobarb for CIWA.

On ___, the patient again remained stable from a Neurosurgical 
perspective.  Given his respiratory compromise and reintubation 
ACS will be consulted for Trach and PEG placement.

On ___, the patient remained neurologically stable. 
Tracheostomy and PEG were placed.  

On ___, the patient was transferred from the TSICU to the NICU. 
 Prior to transfer, bronchoscopy was performed for copious 
secretions.  He remained ventilated.  He was febrile to 102.8 
with tachypnea, tachycardia and diaphoresis; cultres were sent.  
He received fluid boluses for low urine output with improvement. 
 

On ___, sedation was restarted and he was changed from propofol 
to precedex.  CT Chest showed diffuse, multifocal 
bronchopneumonia and pleural effusions.  CT head remained 
stable. 
He received 1 unit PRBC's for decreased HCT.  Foley was 
reinserted for urinary retention.  

On ___ the patient was transferred to the Neuro ICU from the 
TSICU for close monitoring and management of PNA. Please refer 
to the Neuro ICU notes between the dates of ___.

On ___, the patient was transferred from the Neuro ICU to the 
___. 

On ___, he remained neurologically stable. He remained 
hyponatremic and continued his triple antibiotics for treatment 
of PNA per ID recommendations. A Medicine consult was called 
with a request for transfer on ___.

On ___, the patient remained neurologically stable on 
examination. His potassium was repleted. He is pending transfer 
to the medical service. 

UPON ADMISSION TO MEDICINE SERVICE
==================================

#VAP. Pt received azithromycin (___) and ceftriaxone (___) 
for klebsiella PNA from presumed aspiration. Course c/b acute 
ventilator dependent respiratory failure with bilateral pleural 
effusions c/f VAP. Pt s/p trach on ___hest ___ c/w 
PNA with bilateral pleural effusion. Pt was transitioned to 
vanc/cefepime/flagyl 7 day course from ___. B-glucan was 
elevated to 220s, but down-trended to 90.

#Epidural hematoma and R PCA Infarct, SDH, s/p Craniotomy 
___: EDH, R PCA and SDH occurred as a result of a fall. CT 
head ___ with evolving right PCA territory infarction stable 
when compared to prior, otherwise stable. BP was maintained 
below 160 with PRN hydralazine. 
 
#Hyponatremia. Na 138 on ___. Pt was receiving fludrocortisone 
0.1 mg BID (started ___ in addition to PRN salt tabs, which 
was weaned, discontinued ___.

#Fall Injuries. Right temporal bone fracture, s/p craniotomy, R 
L3-L4 old transverse process fracture. 

#Anemia. S/p transfusion ___ on 1U pRBC. Stool guaiac negative 
despite history of NSAID usage. 

#Depression/Anxiety. Pt was continued on home fluoxetine, 
gabapentin, seroquel. Folic acid and thiamine was continued 
given history of EtOH use. 

#Agitation: Pt was continued on clonidine for agitation, 
trazodone 25 mg PO QHS. 

#Pain. Pt continued on Tylenol and gabapentin 900 mg TID.

#Nutrition. PEG placed ___. Pt received TF: Jevity 1.5 at goal 
rate: 45 ml/hr with banana flakes in NS (to minimize free water) 


#Diarrhea. Pt required flexiseal. He was having loose stool 
which resolved with banana flakes, loperamide,  C.diff was 
negative. CT abd ___ showed redundant sigmoid colon without 
fatty streaking. 
 
#Urinary retention. Foley replaced ___ for post-void retention 
>400 cc. 

#Hypothyroidism. Continued on levothyroxine 125 mcg QD.

#EtoH/MJ Dependence. History of illicit drug use. Continued on 
multivitamin, pyridoxine, caltrate 600 + D (calcium 
carbonate-vitamin D3) 1 TAB oral BID. Home tenex was held given 
reactivity with EtOH. 

#Hepatitis C. C/b polyarthralgias on plaquenil and 
hydroxychloroquine 
Consider restarting hydroxychloroquine and plaquenil 

#Allergies. Home loratidine while in the hospital. 

TRANSITIONAL ISSUES
[] F/u serum sodium. Discontinued fludrocortisone .1BID ___ 
[] F/u with neurology 
[] F/u with speech and swallow for  speaking valve, requiring 
re-eval at later date during inpatient stay)
[] Hep C polyarthralgias, f/u for hydroxychloroquine and 
plaquenil continuation. Discontinued as inpatient. 

CODE: Full code
CONTACT:  ___ 
___: husband 
Phone number: ___ 

  

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 600 mg PO Q8H:PRN Pain - Moderate 
2. FLUoxetine 80 mg PO DAILY 
3. Pyridoxine 50 mg PO DAILY 
4. Caltrate 600 + D (calcium carbonate-vitamin D3) 1 TAB oral 
BID 
5. TraZODone 200 mg PO QHS 
6. Multivitamins 1 TAB PO DAILY 
7. Levothyroxine Sodium 100 mcg PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. Ondansetron 4 mg PO BID:PRN nausea 
10. QUEtiapine Fumarate 200 mg PO QHS 
11. Gabapentin 900 mg PO TID 
12. Ketoconazole 2%  1 Appl TP BID 
13. Hydroxychloroquine Sulfate 200 mg PO BID 
14. Loratadine 10 mg PO DAILY:PRN allergy 
15. Tenex (guanFACINE) 1 mg oral BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Albuterol Inhaler 4 PUFF IH Q4H:PRN wheeze  
3.  CloNIDine 0.2 mg PO TID  
4.  FoLIC Acid 1 mg PO DAILY  
5.  HydrALAZINE 10 mg IV Q6H:PRN SBP >160  
6.  LOPERamide 2 mg PO BID:PRN diarrhea  
7.  Potassium Chloride 40 mEq PO BID  
8.  Simethicone 40-80 mg PO QID:PRN gas  
9.  Thiamine 100 mg PO DAILY  
10.  FLUoxetine 80 mg PO DAILY  
11.  Gabapentin 900 mg PO TID  
12.  Levothyroxine Sodium 100 mcg PO DAILY  
13.  Multivitamins 1 TAB PO DAILY  
14.  Ondansetron 4 mg PO BID:PRN nausea  
15.  QUEtiapine Fumarate 200 mg PO QHS  
16.  TraZODone 200 mg PO QHS  
17.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
===================
Right Epidural Hematoma 
Subdural hematoma 
Right non-displaced temporal bone fracture 
Ventilatory Associated Pneumonia

SECONDARY DIAGNOSIS
===================
EtOH Abuse

SECONDARY DIAGNOSIS 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to be part of your care. 

You were admitted to the hospital because you had fallen and 
were found to have a brain bleed, you underwent a craniotomy to 
remove the blood from your brain. 

During your stay you received a tracheostomy tube in your throat 
to help you breath and a PEG tube to help you receive nutrition. 


You developed a pneumonia which was treated with antibiotics. 

We wish you the best,
Your ___ Team  

 
Followup Instructions:
___